US07528262B2
2-[2-(tert-Butyldimethylsilanyloxy)ethyl]-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole.
2-[2-(tert-Butyldimethylsilanyloxy)ethyl]-1H-indole (0.11 g, 0.4 mmol) and 1-[3-(4-Iodophenoxy)propyl]pyrrolidine (0.16 g, 0.48 mmol) were dissolved in toluene (0.4 mL), and N,N-dimethylethylenediamine (0.017 mL, 0.16 mmol), copper(I) iodide (30 mg, 0.16 mmol), and potassium phosphate (0.18 g, 0.84 mmol) were added. The reaction was heated at 100° C. overnight. The mixture was filtered through Celite with dichloromethane. The filtrate was concentrated, and taken forward without purification (crude product contains some starting material). LC-MS (C29H42N2O2Si calc'd 478) m/z 479 (M+H).

reactant | 2-[2-(tert-Butyldimethylsilanyloxy)ethyl]-1H-indole | 0.4 mmol, 0.11 g | [Si](C)(C)(C(C)(C)C)OCCC=1NC2=CC=CC=C2C1 | C16H25NOSi
reactant | 1-[3-(4-Iodophenoxy)propyl]pyrrolidine | 0.48 mmol, 0.16 g | IC1=CC=C(OCCCN2CCCC2)C=C1 | C13H18INO
reactant | N,N-dimethylethylenediamine | 0.16 mmol, 0.017 mL | CN(CCN)C | C4H12N2
reactant | potassium phosphate | 0.84 mmol, 0.18 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 0.4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.16 mmol, 30 mg | [Cu]I
product | 2-[2-(tert-Butyldimethylsilanyloxy)ethyl]-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole | [Si](C)(C)(C(C)(C)C)OCCC=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)OCCCN1CCCC1 | C29H42N2O2Si
